US04102913
In the presence of alkaline catalysts, acrylonitrile reacts with aldehydes, the α-carbon atoms of which possess one or two hydrogen atoms, forming 3-substituted propionitriles (U.S. Pat. No. 2,353,687). This so-called "cyanoethylation" reaction also occurs with other compounds which have an active hydrogen atom. For example, 2-ethyl butyraldehyde and acrylonitrile react in the presence of catalytic amounts of 50 percent caustic potash solution forming 2-(β-cyanoethyl)-2-ethyl butyraldehyde. A yield of 76.6 percent results after a reaction period of 4.5 hours. (H. A. Bruson, Th. W. Riener, J. Am. Chem. Soc., 66, 57 [1944]). The reaction is strongly exothermal. Acetaldehyde reacts with acrylonitrile in the presence of a 50 percent caustic soda solution forming γ-formylpimelonitrile. For a yield of 40-50%, the reaction period amounts to 2-3 hours. Under the same conditions, propionaldehyde forms 4.9 percent 2-methyl-4-cyanobutyraldehyde (U.S. Pat. No. 2,409,086). 2,2-dimethyl-4-cyano-butyraldehyde is formed in up to 60 percent yield from the reaction between isobutyraldehyde and acrylonitrile.

reactant | 2-ethyl butyraldehyde | C(C)C(C=O)CC | C6H12O
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | caustic potash | [OH-].[K+]
product | 2-(β-cyanoethyl)-2-ethyl butyraldehyde | yield of 76.6 percent | C(#N)CCC(C=O)(CC)CC | C9H15NO
